US05929089
5-(6-Chloro-3,4-dihydro-2H-benzopyran-8-yl)-3-[1-[4-[4-(dimethylamino)piperidin-1-yl]-4-oxobutyl]piperidin-4-yl]-1,3,4-oxadiazol-2(3H)-one hydrochloride.
1 g (2.68 mmol) of 5-(6-chloro-3,4-dihydro-2H-benzopyran-8-yl)-3-(piperidin-4-yl)-1,3,4-oxadiazol-2(3H)-one hydrochloride, in solution in 50 ml of acetonitrile, is introduced into a 250 ml three-necked round-bottomed flask, 1.24 ml (5.36 mmol) of 1-(4-chloro-1-oxobutyl)-N,N-dimethylpiperidin-4-amine and 1.12 ml (8 mmol) of triethylamine are added and the mixture is stirred at room temperature overnight. The mixture is evaporated under reduced pressure and the residue is taken up in water and extracted three times with chloroform. The organic phase is dried over magnesium sulphate and filtered, the solvent is evaporated under reduced pressure and the residue is purified by chromatography on a column of silica gel, elution being carried out with 98/2, 95/5 and then 90/10 mixtures of dichloromethane and methanol. A white solid is obtained which is treated in a solution of gaseous hydrochloric acid in ethanol and, after recrystallizing from ethanol, 0.22 g of hydrochloride is finally isolated. Melting point: 193° C.

reactant | 5-(6-chloro-3,4-dihydro-2H-benzopyran-8-yl)-3-(piperidin-4-yl)-1,3,4-oxadiazol-2(3H)-one hydrochloride | 2.68 mmol, 1 g | Cl.ClC=1C=C(C2=C(CCCO2)C1)C1=NN(C(O1)=O)C1CCNCC1
reactant | 1-(4-chloro-1-oxobutyl)-N,N-dimethylpiperidin-4-amine | 5.36 mmol, 1.24 ml | ClCCCC(=O)N1CCC(CC1)N(C)C | C11H21ClN2O
reactant | triethylamine | 8 mmol, 1.12 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
product | 5-(6-Chloro-3,4-dihydro-2H-benzopyran-8-yl)-3-[1-[4-[4-(dimethylamino)piperidin-1-yl]-4-oxobutyl]piperidin-4-yl]-1,3,4-oxadiazol-2(3H)-one hydrochloride | Cl.ClC=1C=C(C2=C(CCCO2)C1)C1=NN(C(O1)=O)C1CCN(CC1)CCCC(=O)N1CCC(CC1)N(C)C | InChI=1S/C27H38ClN5O4.ClH/c1-30(2)21-9-14-32(15-10-21)24(34)6-3-11-31-12-7-22(8-13-31)33-27(35)37-26(29-33)23-18-20(28)17-19-5-4-16-36-25(19)23;/h17-18,21-22H,3-16H2,1-2H3;1H
